US04559339
Preparation of 7-[(1-[2(S)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(5H,7H)-dione hydrate
7-[(1-[2(S)-((1,1-Dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)-methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione (250 mg, 0.40 mmole) was dissolved in 4 ml of glacial acetic acid and treated at 10° with 101 mg (1.60 mmole) of sodium cyanoborohydride. After twenty minutes, the reaction mixture was poured into 50 ml of water and then extracted with ethyl acetate (4×40 ml). The combined organic extracts were washed with saturated sodium bicarbonate solution and brine, then dried (MgSO4) and concentrated. The crude product was purified by preparative thick layer chromatography on silica gel (97:3 chloroform-methanol elution) to give the analytical sample as a mixture of diastereomers.

reactant | 7-[(1-[2(S)-((1,1-Dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)-methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(6H,7H)-dione | 0.40 mmole, 250 mg | CC(C)(OC(=O)N[C@H](C(=O)N1CC(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O)CC(C)C)C | C36H39N5O5
reactant | sodium cyanoborohydride | 1.60 mmole, 101 mg | C(#N)[BH3-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 7-[(1-[2(S)-((1,1-dimethylethoxy)carbonyl)amino-4-methylpentanoyl]-2,3-dihydro-1H-indol-3-yl)methyl]quinazolino(3,2-A)-1,4-benzodiazepin-5,13-(5H,7H)-dione hydrate | O.CC(C)(OC(=O)N[C@H](C(=O)N1CC(C2=CC=CC=C12)CC1C=2N(C3=C(C(N1)=O)C=CC=C3)C(C=3C=CC=CC3N2)=O)CC(C)C)C | InChI=1S/C36H39N5O5.H2O/c1-21(2)18-28(39-35(45)46-36(3,4)5)34(44)40-20-22(23-12-7-10-16-29(23)40)19-27-31-37-26-15-9-6-13-24(26)33(43)41(31)30-17-11-8-14-25(30)32(42)38-27;/h6-17,21-22,27-28H,18-20H2,1-5H3,(H,38,42)(H,39,45);1H2/t22?,27?,28-;/m0./s1
